US07700552B2
7-Methoxy-2-phenyl-quinazolin-4-ol (51)
Treatment of 2-amino-5-methoxy-benzamide according the procedure described by Raid J. Abdel-Jalil, Wolfgang Voelter and Muhammad Saeed in Tetrahedron Letters 45 (2004) 3475-3476 for the preparation of 2-phenyl-quinazoline 4-ol gave the title compound.

reactant | 2-amino-5-methoxy-benzamide | NC1=C(C(=O)N)C=C(C=C1)OC | C8H10N2O2
reactant | 2-phenyl-quinazoline 4-ol | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)O | C14H10N2O
product | 7-Methoxy-2-phenyl-quinazolin-4-ol | COC1=CC=C2C(=NC(=NC2=C1)C1=CC=CC=C1)O | C15H12N2O2
